US07135482B2
3-(4-Fluorobenzyl)-N-[(pentafluorobenzyl)oxy]-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound was prepared by coupling of 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-[(2,3,4,5,6-pentafluorobenzyl)oxy]amine hydrochloride under the same conditions as those in step (c) of example 1. 1H NMR (300 MHz, MeOH-d4) δ; 8.69 (s, 1H), 8.52 (s, 1H), 8.28 (s, 1H), 7.33–7.32 (m, 2H), 7.07–7.02 (m, 2H), 5.56 (s, 2H), 5.09 (s, 2H). LCMS (API-ES, M+H+): 467.0. HRMS calcd for C21H13F6N4O2 (M+H) 467.0943. found 467.0942. HPLC: >80% purity.

reactant | 3-(4-fluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=C1 | C14H10FN3O2
reactant | N-[(2,3,4,5,6-pentafluorobenzyl)oxy]amine hydrochloride | Cl.FC1=C(CON)C(=C(C(=C1F)F)F)F
product | 3-(4-Fluorobenzyl)-N-[(pentafluorobenzyl)oxy]-3H-imidazo[4,5-c]pyridine-6-carboxamide | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)NOCC3=C(C(=C(C(=C3F)F)F)F)F)C=C1 | C21H12F6N4O2
